US07732460B2
(e) 1,1-Dimethylethyl [2-[3-(dimethylamino)-2-fluoroacryloyl]-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate
A solution of 1,1-dimethylethyl [5-fluoro-2-(fluoroacetyl)-6-(methyloxy)-3-pyridinyl]carbamate (3.72 g, 12.32 mmol) in dry toluene (20 ml) was treated with {(dimethylamino)[(1,1-dimethylethyl)oxy]methyl}dimethylamine (Bredereck's reagent) (3.05 ml, 14.78 mmol) and heated at 40° C. for 2 hours. The mixture was evaporated and the residue triturated with 3×200 ml hexane and the remaining solid dried in vacuo to afford the product (2.15 g, 49%).

reactant | 1,1-dimethylethyl [5-fluoro-2-(fluoroacetyl)-6-(methyloxy)-3-pyridinyl]carbamate | 12.32 mmol, 3.72 g | FC=1C=C(C(=NC1OC)C(CF)=O)NC(OC(C)(C)C)=O | C13H16F2N2O4
reactant | {(dimethylamino)[(1,1-dimethylethyl)oxy]methyl}dimethylamine | 14.78 mmol, 3.05 ml | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-Dimethylethyl [2-[3-(dimethylamino)-2-fluoroacryloyl]-5-fluoro-6-(methyloxy)-3-pyridinyl]carbamate | 2.15 g, 49% | CN(C=C(C(=O)C1=NC(=C(C=C1NC(OC(C)(C)C)=O)F)OC)F)C | C16H21F2N3O4
